*$
* INA125
*****************************************************************************
* (C) Copyright 2022 Texas Instruments Incorporated. All rights reserved.                                            
*****************************************************************************
** This model is designed as an aid for customers of Texas Instruments.
** TI and its licensors and suppliers make no warranties, either expressed
** or implied, with respect to this model, including the warranties of 
** merchantability or fitness for a particular purpose.  The model is
** provided solely on an "as is" basis.  The entire risk as to its quality
** and performance is with the customer
*****************************************************************************
*
* This model is subject to change without notice. Texas Instruments
* Incorporated is not responsible for updating this model.
*
*****************************************************************************
*
** Released by: Online Design Tools, Texas Instruments Inc.
* Part: INA125
* Date: 09NOV2022
* Model Type: ALL IN ONE
* EVM Order Number: N/A
* EVM Users Guide: N/A
* Datasheet: SBOS060
*
* Model Version: Final 1.1
*
*****************************************************************************
*
* Final 1.1
* 1. Updated PSpice symbol.
* 2. Added Unique SUBCKT name.
*
* Final 1.0: 
* Release to Web
*
*****************************************************************************
* Model Usage Notes:
* 1. Model file is updated with latest header.
* 2. Updated the inverting input terminal pin number from 1 to 2 in Neg input 
*    protection block.
* 3. Interchanged the pin numbers of IN+ and IN-.
*****************************************************************************
* INA125 SUB-CIRCUIT
* CONNECTIONS:  NON-INVERTING INPUT  
*               |   INVERTING INPUT
*               |   |   POSITIVE POWER SUPPLY
*               |   |   |   NEGATIVE POWER SUPPLY
*               |   |   |   |   OUTPUT
*		        |   |   |	|   |   SENSE
*               |   |   |   |   |   |   GAIN SENSE 1
*		        |   |   |   |   |   |	|   GAIN SENSE 2
*               |   |   |   |   |   |   |   |   IA REFERENCE
*               |   |   |   |   |   |   |   |   |   VREF COMMON
*               |   |   |   |   |   |   |   |   |   |   VREF OUT
*               |   |   |   |   |   |   |   |   |   |   |   VREF BG
*               |   |   |   |   |   |   |   |   |   |   |   |   VREF 2.5
*               |   |   |   |   |   |   |   |   |   |   |   |   |   VREF 5
*               |   |   |   |   |   |   |   |   |   |   |   |   |   |   VREF 10
*               |   |   |   |   |   |   |   |   |   |   |   |   |   |   |
.SUBCKT INA125  2   1   3   4   5   6   7   8   9   10  11  12  13  14  15
*****************************************************************************
***** A1_125E SUB-CIRCUIT
* CONNECTIONS:          NON-INVERTING INPUT
*                       |   INVERTING INPUT
*                       |   |   POSITIVE POWER SUPPLY
*                       |   |   |   NEGATIVE POWER SUPPLY
*                       |   |   |   |   OUTPUT
*                       |   |   |   |   |
X1                     31   7   3   4   21  A1_125E
***** A2_125E SUB-CIRCUIT
* CONNECTIONS:          NON-INVERTING INPUT
*                       |   INVERTING INPUT
*                       |   |   POSITIVE POWER SUPPLY
*                       |   |   |   NEGATIVE POWER SUPPLY
*                       |   |   |   |   OUTPUT
*                       |   |   |   |   |
X2                     33   8   3   4   5   A2_125E
***** REF_125E SUB-CIRCUIT
* CONNECTIONS:          NON-INVERTING INPUT
*                       |   INVERTING INPUT
*                       |   |   POSITIVE POWER SUPPLY
*                       |   |   |   NEGATIVE POWER SUPPLY
*                       |   |   |   |   OUTPUT
*                       |   |   |   |   |
X3                      20  12  3   10  11   REF_125E
R1    7    21  10.0000K
R2    7    9   30.0015K
R3    6    8   30.0000K
R4    8    21  10.0000K
R5    12  10   21.0000K
R6    12  13   21.3390K
R7    13  14   42.3380K
R8A   14  15   169.356K
R8B   14  15   169.356K
VBG   20  0    DC   1.24V
****************************
* INA125 "E" - ENHANCEMENTS
****************************
RDIFF  1   2   1.0000E11
R1CM   1   0   2.0000E11
R2CM   2   0   2.0000E11
CDIF   1   2   2.0000PF
C1CM   1   0   4.5000PF
C2CM   2   0   4.5000PF
* POS INPUT PROTECTION
J1P  31   32   1  jx 5x
J2P  32   32   1  jx 1x
D1P  31   3    dx
D2P  4    31   dx
* NEG INPUT PROTECTION
J1N  33   34   2  jx 5x
J2N  34   34   2  jx 1x
D1N  33   3    dx
D2N  4    33   dx
* Supply Current Variation
RQ    3   4  6e6
*********************************
.model jx pjf(vto=-1.2 beta=6.6U lambda=13M)
.model dx D(Is=800.0E-18)
.ENDS INA125
*
* A1_125E operational amplifier "macromodel" subcircuit
* created using Parts release 6.3a on 09/08/97 at 13:47
* Parts is a MicroSim product.
*
* connections:   non-inverting input
*                | inverting input
*                | | positive power supply
*                | | | negative power supply
*                | | | | output
*                | | | | |
.subckt A1_125E  1 2 3 4 5
*
c1   11 12 9.238E-12
c2    6  7 32.00E-12
dc    5 53 dx
de   54  5 dx
dlp  90 91 dx
dln  92 90 dx
dp    4  3 dx
egnd 99  0 poly(2) (3,0) (4,0) 0 .5 .5
fb    7 99 poly(5) vb vc ve vlp vln 0 165.8E6 -170E6 170E6 170E6 -170E6
ga    6  0 11 12 60.32E-6
gcm   0  6 10 99 603.2E-12
iee   3 10 dc 6.420E-6
hlim 90  0 vlim 1K
q1   11  2 13 qx
q2   12  1 14 qx
r2    6  9 100.0E3
rc1   4 11 16.58E3
rc2   4 12 16.58E3
re1  13 10 8.470E3
re2  14 10 8.470E3
ree  10 99 31.15E6
ro1   8  5 50
ro2   7 99 100
vb    9  0 dc 0
vc    3 53 dc 1.450
ve   54  4 dc .9
vlim  7  8 dc 0
vlp  91  0 dc 10
vln   0 92 dc 10
****************************
* A1_125 "E" - ENHANCEMENTS
****************************
* OUTPUT SUPPLY MIRROR
FQ3 0 20 POLY(1) VLIM 0 1
DQ1 20 21 DX
DQ2 22 20 DX
VQ1 21 0 0
VQ2 22 0 0 
FQ1 3 0 POLY(1) VQ1 131ua 1
FQ2 0 4 POLY(1) VQ2 131ua -1
*****************************
.model dx D(Is=800.0E-18)
.model qx PNP(Is=800.0E-18 Bf=320)
.ends A1_125E
*
* A2_125E operational amplifier "macromodel" subcircuit
* created using Parts release 6.3a on 09/08/97 at 13:50
* Parts is a MicroSim product.
*
* connections:   non-inverting input
*                | inverting input
*                | | positive power supply
*                | | | negative power supply
*                | | | | output
*                | | | | |
.subckt A2_125E  1 2 3 4 5
*
c1   11 12 9.238E-12
c2    6  7 32.00E-12
dc    5 53 dx
de   54  5 dx
dlp  90 91 dx
dln  92 90 dx
dp    4  3 dx
egnd 99  0 poly(2) (3,0) (4,0) 0 .5 .5
fb    7 99 poly(5) vb vc ve vlp vln 0 82.89E6 -83E6 83E6 83E6 -83E6
ga    6  0 11 12 120.6E-6
gcm   0  6 10 99 1.206E-9
iee   3 10 dc 6.420E-6
hlim 90  0 vlim 1K
q1   11  2 13 qx
q2   12  1 14 qx
r2    6  9 100.0E3
rc1   4 11 8.289E3
rc2   4 12 8.289E3
re1  13 10 206.1
re2  14 10 206.1
ree  10 99 31.15E6
ro1   8  5 50
ro2   7 99 100
vb    9  0 dc 0
vc    3 53 dc 1.450
ve   54  4 dc .9
vlim  7  8 dc 0
vlp  91  0 dc 10
vln   0 92 dc 10
****************************
* A2_125 "E" - ENHANCEMENTS
****************************
* OUTPUT SUPPLY MIRROR
FQ3 0 20 POLY(1) VLIM 0 1
DQ1 20 21 DX
DQ2 22 20 DX
VQ1 21 0 0
VQ2 22 0 0 
FQ1 3 0 POLY(1) VQ1 131ua 1
FQ2 0 4 POLY(1) VQ2 131ua -1
****************************
.model dx D(Is=800.0E-18)
.model qx PNP(Is=800.0E-18 Bf=320)
.ends A2_125E
*
* connections:   non-inverting input
*                | inverting input
*                | | positive power supply
*                | | | negative power supply
*                | | | | output
*                | | | | |
.SUBCKT REF_125E 1 2 3 4 5
*
c1   11 12 12.59E-12
c2    6  7 30.00E-12
dc    5 53 dx
de   54  5 dx
dlp  90 91 dx
dln  92 90 dx
dp    4  3 dx
egnd 99  0 poly(2) (3,0) (4,0) 0 .5 .5
fb    7 99 poly(5) vb vc ve vlp vln 0 1.415E9 -1E9 1E9 1E9 -1E9
ga    6  0 11 12 28.27E-6
gcm   0  6 10 99 282.7E-12
iee   3 10 dc 6.020E-6
hlim 90  0 vlim 1K
q1   11  2 13 qx
q2   12  1 14 qx
r2    6  9 100.0E3
rc1   4 11 35.37E3
rc2   4 12 35.37E3
re1  13 10 26.66E3
re2  14 10 26.66E3
ree  10 99 33.22E6
ro1   8  5 50
ro2   7 99 25
vb    9  0 dc 0
vc    3 53 dc 1.450
ve   54  4 dc .9
vlim  7  8 dc 0
vlp  91  0 dc 10
vln   0 92 dc 10
****************************
* REF_125 "E" ENHANCEMENTS
****************************
*OUTPUT SUPPLY MIRROR
FQ3 0 20 POLY(1) VLIM 0 1
DQ1 20 21 DX
DQ2 22 20 DX
VQ1 21 0 0
VQ2 22 0 0 
FQ1 3 0 POLY(1) VQ1 114.8E-6 1
FQ2 0 4 POLY(1) VQ2 114.0E-6 -1
****************************
.model dx D(Is=800.0E-18)
.model qx PNP(Is=800.0E-18 Bf=300)
.ends REF_125E
